US20010023300A1
3-Cyano-2,4-dichloro-5-fluorobenzoic acid
162 g of hydroxylamine hydrochloride were introduced into 2000 ml of formic acid (technical-grade, 85% strength). At 95° C., 950 g of 2,4-dichloro-5-fluoro-3-formylbenzoic acid (moistened with sulphuric acid, 42% strength) were introduced. As a result, the mixture foamed briefly and then a clear solution was immediately obtained. The mixture was then stirred for 4 hours at from 100 to 105° C. (reflux).

reactant | hydroxylamine hydrochloride | 162 g | Cl.NO
reactant | 2,4-dichloro-5-fluoro-3-formylbenzoic acid | 950 g | ClC1=C(C(=O)O)C=C(C(=C1C=O)Cl)F | C8H3Cl2FO3
solvent | formic acid | 2000 ml | C(=O)O | CH2O2
product | 3-Cyano-2,4-dichloro-5-fluorobenzoic acid | C(#N)C=1C(=C(C(=O)O)C=C(C1Cl)F)Cl | C8H2Cl2FNO2
